US07109238B2
a) Indan-2-yl-acetic acid methyl ester
A solution of indan-2-yl-acetic acid (Lancaster, 20 g, 0.11 mol) in methanol (200 mL) was stirred and cooled to 0–10° C. in an ice bath and treated drop-wise with thionyl chloride (14.8 g, 0.125 mol). The mixture was stirred at RT for 16 h, concentrated in vacuo, and the oily residue was dissolved in ethyl acetate, washed with 2.5 N sodium hydroxide, water, and brine, dried (MgSO4), and concentrated in vacuo to give the title compound (21 g, 97%) which solidified.

reactant | indan-2-yl-acetic acid | 0.11 mol, 20 g | C1C(CC2=CC=CC=C12)CC(=O)O | C11H12O2
reactant | thionyl chloride | 0.125 mol, 14.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 200 mL | CO | CH4O
product | Indan-2-yl-acetic acid methyl ester | 21 g, 97% | COC(CC1CC2=CC=CC=C2C1)=O | C12H14O2
